*
.SUBCKT BDP32 1 2 3
*
* housing parasitics
*
LBlead 2 22 1.63E-09
LE 3 333 3.77E-09
LC 1 11 4.1E-10
LBbond 22 222 2.5E-09
CBCG 222 11 1.76E-13
CBEG 222 333 8.6E-14
CCEG 11 333 1.76E-13
Q1 11 222 333 BDP32 AREA = 1
.MODEL BDP32 PNP (
+    IS = 2.399E-13
+    NF = 0.9886
+    ISE = 1.502E-14
+    NE = 1.2
+    BF = 126
+    IKF = 3
+    VAF = 94.36
+    NR = 0.988
+    ISC = 2.127E-13
+    NC = 1.135
+    BR = 45.12
+    IKR = 0.13
+    VAR = 24
+    RB = 15.37
+    IRB = 0.0006455
+    RBM = 0.06333
+    RE = 0.17
+    RC = 0.002
+    XTB = 0
+    EG = 1.11
+    XTI = 3
+    CJE = 4.056E-10
+    VJE = 0.7881
+    MJE = 0.3843
+    TF = 1.15E-09
+    XTF = 55
+    VTF = 5
+    ITF = 9
+    PTF = 0
+    CJC = 1.965E-10
+    VJC = 0.3939
+    MJC = 0.374
+    XCJC = 1
+    TR = 60E-9
+    CJS = 0
+    VJS = 0.75
+    MJS = 0.333
+    FC = 0.78)
.ENDS
*